US08877801B2
To a solution of methyl 5-((6-methoxy-2-(4-methoxyphenyl)-1-oxidobenzo[b]thiophen-3-yl)oxy)picolinate (0.314 g, 0.718 mmol) in THF (5.98 mL) at 0° C. was added LAH (1.0 M in THF, 2.153 mL, 2.15 mmol) dropwise and the reaction was stirred at 0° C. for 1 h. Upon completion the reaction was quenched with water and sat. aq. potassium sodium tartrate and the resulting mixture was stirred for 30 min and then extracted with EtOAc (3×). The organic layers were combined, passed through a phase separator and concentrated in vacuo to afford crude (5-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)methanol which was used without further purification. LC/MS (m/z, MH+): 394.2.

reactant | methyl 5-((6-methoxy-2-(4-methoxyphenyl)-1-oxidobenzo[b]thiophen-3-yl)oxy)picolinate | 0.718 mmol, 0.314 g | COC=1C=CC2=C(S(C(=C2OC=2C=CC(=NC2)C(=O)OC)C2=CC=C(C=C2)OC)=O)C1 | C23H19NO6S
reactant | LAH | 2.15 mmol, 1.0 M, 2.153 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5.98 mL | C1CCOC1 | C4H8O
product | (5-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)pyridin-2-yl)methanol | COC=1C=CC2=C(SC(=C2OC=2C=CC(=NC2)CO)C2=CC=C(C=C2)OC)C1 | C22H19NO4S
